Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
volume overload 
 
Major Surgical or Invasive Procedure:
G-J Tube removed by interventional radiology ___

 
History of Present Illness:
Mr. ___ is a ___ with T1DM (c/b multiple toe
amputations, gastroparesis & prior DKA), ESRD on HD (likely ___
DM, no biopsy on file), bilateral ___ DVT s/p IVC filter ___
and on warfarin, L non-occlusive jugular thrombus (___), R
thalamic bleed in the setting of HTN emergency w/ residual L
hemiparesis (___), & L hip fracture s/p fixation ___, and
recent admission from ___ for MRSA bacteremia ___ PNA on
vancomycin with HD sessions (scheduled course through ___, who
presents from rehab with a 25-lb weight gain and worsening ___
edema since discharge. The patient also had a new 2L O2
requirement in the ED. 
 
The patient is on a MWF HD session, and had not received his
___ session. Per NP at his rehab facility, the patient had
recently been becoming hypotensive while receiving HD at his
facility, with a progressive volume overload and inability to
increase UF. He has not been on diuretics, and was not started 
on
any at facility.

 
Past Medical History:
-type I DM (A1C 4.9 ___ w/ prior DKA
-multiple amputations
-gastroparesis
-ESRD (likely ___ DM, no biopsy on file) on HD
-bilateral ___ DVT s/p IVC filter ___
-L non-occlusive jugular thrombus ___
-R thalamic bleed in the setting of HTN emergency w/ residual L
hemiparesis (___)
-L hip fracture s/p fixation ___
 
Social History:
___
Family History:
___ significant for stroke. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: ___ Temp: 98.4 PO BP: 114/69 R Lying HR: 128 RR: 
20
O2 sat: 94% O2 delivery: RA 
GENERAL: Patient lying in bed, NAD, interactive 
HEAD: NC/AT, R pupil non-reactive (patient reports that it is a
false eye). L pupil reactive. EOMI intact on left side. Oral
mucosa w/o lesions, MMM. 
NECK: Supple, no LAD, no thyromegaly. Elevated JVP. 
CARDIAC: Tachycardic, irregular rhytm. No m/r/g. 
RESPIRATORY: Speaking in full sentences. Decreased bibasilar
breath rounds and mild crackles, L > R. 
ABDOMEN: Unremarkable inspection, soft, NT, +BS. No palpable
organomegaly. PEG tube in place, dressings c/d/I, no erythema or
tenderness around site. 
EXTREMITIES: Severe 2+ petting edema, L > R, in both UE and ___. 
SKIN: Scattered ecchymoses across both arms b/l, no other 
lesions
or rashes. 
NEUROLOGIC: ___ strength on left side; unable to lift L arm or L
leg (baseline per patient). Normal strength on R side.  
PSYCHIATRIC: Pleasant and cooperative. 

DISCHARGE PHYSICAL EXAM
========================
Temp: 98.1 PO BP: 125/76 R Lying HR: 101 RR: 18 O2
sat: 97% O2 delivery: Ra FSBG: 267 
GENERAL: sitting up in bed, NAD, interactive 
HEAD: NC/AT, R pupil non-reactive (false eye). L pupil reactive.
EOMI intact on left side. Oral mucosa w/o lesions, MMM. 
NECK: JVP normal
CARDIAC: Tachycardic, irregular rhythm. No m/r/g. 
RESPIRATORY: Nonlabored breathing, CATB.
ABDOMEN: Unremarkable inspection, soft, NT. PEG tube in place,
dressings c/d/I, no erythema or tenderness around site. 
EXTREMITIES: 1+ pitting edema in left arm and leg, no edema R
SKIN: Scattered ecchymoses across both arms b/l, no other 
lesions
or rashes. 
NEUROLOGIC: ___ strength on left side; unable to lift L arm or L
leg (baseline per patient). Normal strength on R side.  
PSYCHIATRIC: Pleasant and cooperative.
 
Pertinent Results:
ADMISSION LABS
==============
___ 10:15AM BLOOD WBC-15.4* RBC-2.27* Hgb-7.6* Hct-24.4* 
MCV-108* MCH-33.5* MCHC-31.1* RDW-14.1 RDWSD-54.4* Plt ___
___ 10:15AM BLOOD Neuts-63.3 Lymphs-4.4* Monos-5.6 
Eos-25.0* Baso-1.1* Im ___ AbsNeut-9.72* AbsLymp-0.67* 
AbsMono-0.86* AbsEos-3.84* AbsBaso-0.17*
___ 10:15AM BLOOD ___ PTT-32.9 ___
___ 07:52PM BLOOD ___ 03:50PM BLOOD Ret Aut-2.4* Abs Ret-0.05
___ 10:15AM BLOOD Glucose-222* UreaN-107* Creat-3.8*# 
Na-132* K-6.7* Cl-92* HCO3-26 AnGap-14
___ 03:50PM BLOOD ALT-23 AST-18 LD(LDH)-178 AlkPhos-190* 
TotBili-0.2 DirBili-<0.2 IndBili-0.2
___ 10:15AM BLOOD ___
___ 10:15AM BLOOD Calcium-9.8 Phos-3.8 Mg-1.8
___ 03:50PM BLOOD calTIBC-165* Hapto-223* Ferritn-1616* 
TRF-127*
___ 03:50PM BLOOD TSH-1.5

TROP TREND:
___ 10:15AM BLOOD cTropnT-0.56*
___ 07:52PM BLOOD cTropnT-0.61*
___ 06:47AM BLOOD cTropnT-0.63*
___ 05:25PM BLOOD CK-MB-3 cTropnT-0.72*
___ 07:40AM BLOOD CK-MB-2 cTropnT-0.62*

INR TREND:
___ 05:08AM BLOOD ___ PTT-36.3 ___
___ 06:14AM BLOOD ___ PTT-87.1* ___
___ 07:00AM BLOOD ___ PTT-63.3* ___

INTERVAL LABS
==============
___ 05:28AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 05:28AM BLOOD HCV Ab-NEG
___ 06:00PM BLOOD ___ pO2-187* pCO2-42 pH-7.39 
calTCO2-26 Base XS-0 Comment-GREEN TOP 
___ 06:00PM BLOOD Lactate-1.9

DISCHARGE LABS
==============
___ 05:08AM BLOOD WBC-9.2 RBC-2.40* Hgb-7.8* Hct-25.7* 
MCV-107* MCH-32.5* MCHC-30.4* RDW-14.6 RDWSD-57.0* Plt ___
___ 05:08AM BLOOD Glucose-122* UreaN-44* Creat-3.0* Na-141 
K-4.4 Cl-102 HCO3-26 AnGap-13
___ 05:08AM BLOOD Calcium-8.9 Phos-4.4 Mg-1.8

MICRO:
=========
___ 10:40 am BLOOD CULTURE      2 OF 2. 
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 6:00 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 
                            **FINAL REPORT ___
   C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic 
strains of C.
      difficile and detects both C. difficile infection (CDI) 
and
      asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of 
CDI or
      carriage. 

___ 7:15 pm MRSA SCREEN      Source: Nasal swab. 
                            **FINAL REPORT ___
   MRSA SCREEN (Final ___:    No MRSA isolated. 

RADIOLOGY
==========
___ CXR
IMPRESSION: Interval significant increase in left base 
consolidation, worrisome for ongoing, worsened pneumonia.  
Possible small left pleural effusion.  Equivocal new right base 
opacity. Mild pulmonary vascular congestion without overt 
pulmonary edema. 

___ LOWER EXTREMITY US:
IMPRESSION: 
1. No evidence of acutedeep venous thrombosis in the left lower 
extremity 
veins.  A focal area of thickening along the posterior wall of 
femoral vein could represent chronic changes from the previously 
treated thrombus. 
2. Nonspecific subcutaneous edema. 

___:
CONCLUSION:
The left atrial volume index is normal. There is mild symmetric 
left ventricular hypertrophy with a normal
cavity size. There is normal regional and global left 
ventricular systolic function. Quantitative biplane left
ventricular ejection fraction is 58 %. Left ventricular cardiac 
index is normal (>2.5 L/min/m2). There is
no resting left ventricular outflow tract gradient. Mildly 
dilated right ventricular cavity with normal free wall
motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The
aortic valve leaflets (3) appear structurally normal. There is 
no aortic valve stenosis. There is no aortic
regurgitation. The mitral valve leaflets are mildly thickened 
with no mitral valve prolapse. There is mild [1+]
mitral regurgitation. The pulmonic valve leaflets are normal. 
The tricuspid valve leaflets appear structurally
normal. There is mild [1+] tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is
normal. There is no pericardial effusion.
IMPRESSION: Dilated right ventricle. Mild symmetric left 
ventricular hypertrophy with normal
cavity size and regional/global biventricular systolic function. 
mild mitral and tricuspid
regurgitation.
Compared with the prior TTE (images not available for review) of 
___ , the left ventricular systolic
function appears to have improved.

___ CTA CHEST 
IMPRESSION: 
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Multifocal pulmonary opacities in bilateral lungs have 
progressed compared to ___ concerning for progression 
of pneumonia. 
3. Small to moderate bilateral pleural effusions. 

___ G-J REMOVAL:
IMPRESSION:  
Technically successful gastrojejunostomy tube removal and T 
fastener button removal.
RECOMMENDATION(S):  Please re-consult interventional radiology 
if there is 
further need for enteral access in the future.  The gastrostomy 
site may leak for the next few days while the site closes. 

 
Brief Hospital Course:
SUMMARY STATEMENT
=========================================================
___ chronically-ill male with T1DM, ESRD on HD, bilateral ___ 
DVT
s/p IVC filter ___ and on warfarin, L non-occlusive jugular
thrombus (___), R thalamic bleed in the setting of HTN
emergency w/ residual L hemiparesis (___), and recent
admission from ___ for MRSA bacteremia ___ PNA on 
vancomycin
with HD sessions (scheduled course through ___, who presents
from rehab with a 25-lb weight gain and worsening ___ edema on 
___.

ACTIVE ISSUES
=========================================================
# Dysphagia, s/p G-J tube placement ___
# Severe Protein Calorie Nutrition
Patient noted to have high aspiration risk over course for last
hospitalization, but decided to accept risks and trial pureed 
solids with nectar-thick liquids during prior hospitalization. 
Patient's G-J tube became clogged during admission. As patient 
was maintaining good PO intake and eating food was important to 
patient's GOC, the clogged G-J tube was pulled ___. On 
discharge, patient was eating solid diet.

# ESRD on HD, secondary to T1D 
Pre-admission HD sessions at facility were reported to have been 
limited by hypotension and tachycardia, and with an inability to 
increase UF as a result. Here, patient received hemodialysis 
through admission with ultrafiltration to remove excess volume. 
Repeat Echo showed recovered EF at 58%. By ___ patient did 
not appear volume overloaded on clinical exam. 

# HF w recovered EF (EF 45% ___ 
# Elevated troponins 
Patient presented with volume overload and elevated proBNP, 
consistent with HF exacerbation. Patient's discharge weight was 
66.3kg, and reported dry weight is 63kg. Admission weight was 
74.3kg. EKG w/o new ischemic changes, despite mild trop 
elevation. Infectious workup negative, other than ongoing 
aspiration. While here, a repeat Echo showed a recovered EF at 
58%. His metoprolol was uptitrated for better rate control, and 
his atorvastatin was continued. 

# Pneumonia 
# Recent MRSA Bacteremia 
# Leukocytosis
Patient had recent admission from ___ for MRSA bacteremia
___ PNA, and has been dosed with vancomycin with HD sessions
(scheduled course through ___. He presented with increased 
leukocytosis, and CXR consistent with worsened bilateral 
pneumonia, likely secondary to aspiration. He received a few 
days of broad spectrum treatment, prior to return to his 
original Vancomycin course. Vancomycin was transitioned to 
linezolid ___, as vancomycin may have been contributing to 
eosinophilia (3.84 on admission). All antibiotics were stopped 
on day of discharge (___) as patient had completed course 
for hospital associated pneumonia.

# Anemia 
Hgb notably below baseline; 7.6 on admission, from discharge Hgb 
of 8.3. Had Hgb drop from 7.6 to 6.5 on ___. Anemia likely 
multifactorial, including acute suppression iso infection, and 
anemia of chronic disease from ESRD. Less likely GI bleed, as 
patient has had no complaints of melena or BRBPR. Patient was 
transfused for Hgb < 7 throughout admission. Hb was 7.8 at 
discharge.

# T1DM
Patient has very brittle T1DM, and presented in DKA on recent 
admission in ___. He is very sensitive to insulin and has had 
hypoglycemic episodes in the past. He was continued on home 
glargine 7U with Q6H insulin sliding scale for tube feeds on 
admission. He was transitioned to glargine 8U and insulin lispro 
2U with meals after he began to eat meals. He was discharge on 
glargine 8U with lispro 2U at meals.

# Hypoxia (resolved) 
Had new 2L O2 requirement in ED, after satting in low ___ on RA.
Most likely volume overload iso vs progression of pneumonia.
Resolved by time of arrival to floor. 

# Goals of Care 
A family meeting was held in which patient's family expressed a 
clear understanding that patient was seriously ill and that 
DNR/DNI status was consistent with the patient's goals. He 
himself confirmed these wishes to his providers as well. At end 
of hospitalization, patient filled out MOLST with DNR/DNI 
status. He would like to keep eating for comfort and understands 
the risks of aspiration and death. 

CHRONIC ISSUES
=========================================================
# Atrial Fibrillation and tachycardia
Patient presented with HR in 120s. Patient's home metoprolol 
dose was increased from 25mg q6h to 50 mg q6h.

# History of VTE
Complicated coagulation history. Patient had bilateral ___ DVT 
s/p IVC 
filter ___, L non-occlusive jugular thrombus (___), R 
thalamic bleed in the setting of HTN emergency w/ residual L 
hemiparesis (___). Patient was briefly subtherapeutic, and 
therefore bridged with a heparin gtt until therapeutic again. 
Patient was discharged on home dose of warfarin 2.5 mg with 
therapeutic INR of 2.5 at discharge. 

# GERD: 
Home Pantoprazole 40 mg PO Q12H was continued.

# Mood: 
Home mirtazapine 15 mg PO QHS was continued. Sertraline 25 mg PO 
DAILY were held while patient was receiving Linezolid due to 
risk of serotonin syndrome. 

TRANSITIONAL ISSUES
=========================================================
#MRSA bacteremia s/p treatment
[ ] Surveillance blood cultures after HD on ___

#Hypertension
[ ] Uptitrate lisinopril as tolerated to goal SBP <130/80.

#Atrial fibrillation:
[ ] Uptitrated metoprolol to 50mg q6h while inpatient. If 
requires further rate control, could add diltiazem or consider 
amiodarone, with discussion with cardiologist.
[ ] Can consolidate Metop tartrate into Metop Succinate 200mg 
daily if tolerating well. 

#Diabetes mellitus
[ ] Insulin dose was increased to 8U glargine at baseline, 2U 
short-acting with meals, and sliding scale. Please titrate as 
needed.

#Depression:
[ ] Holding sertraline due to interaction w Linezolid (risk of 
serotonin syndrome) until ___, then ok to restart.

CODE: DNR/DNI
CONTACT: ___ 
Relationship: wife 
Phone number: ___ 

The total time spent today on discharge planning, counseling and 
coordination of care today was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Nephrocaps 1 CAP PO DAILY 
3. Sertraline 25 mg PO DAILY 
4. sevelamer CARBONATE 800 mg PO TID W/MEALS 
5. Warfarin 2.5 mg PO DAILY16 
6. Metoprolol Succinate XL 50 mg PO BID 
7. Pantoprazole 40 mg PO Q12H 
___  MD to order daily dose IV HD PROTOCOL 
9. melatonin 6 mg oral QHS 
10. Mirtazapine 15 mg PO QHS 
11. Sucralfate 1 gm PO QID 
12. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
13. ProMod Protein (protein supplement) 30 cc oral QID 
14. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
15. Senna 17.2 mg PO BID:PRN Constipation - First Line 
16. Glargine 7 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
17. Bisacodyl ___VERY OTHER DAY 

 
Discharge Medications:
1.  Lisinopril 2.5 mg PO DAILY  
2.  Metoprolol Tartrate 50 mg PO Q6H  
3.  Miconazole Powder 2% 1 Appl TP BID rash  
4.  Ramelteon 8 mg PO QHS:PRN insomnia  
5.  Sarna Lotion 1 Appl TP TID:PRN dry skin  
6.  Glargine 8 Units Breakfast
Humalog 2 Units Breakfast
Humalog 2 Units Lunch
Humalog 2 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
7.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
8.  Atorvastatin 40 mg PO QPM  
9.  Bisacodyl ___VERY OTHER DAY  
10.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
 
11.  melatonin 6 mg oral QHS  
12.  Mirtazapine 15 mg PO QHS  
13.  Nephrocaps 1 CAP PO DAILY  
14.  Pantoprazole 40 mg PO Q12H  
15.  ProMod Protein (protein supplement) 30 cc oral QID  
16.  Senna 17.2 mg PO BID:PRN Constipation - First Line  
17.  sevelamer CARBONATE 800 mg PO TID W/MEALS  
18.  Sucralfate 1 gm PO QID  
19.  Warfarin 2.5 mg PO DAILY16  
20. HELD- Sertraline 25 mg PO DAILY  This medication was held. 
Do not restart Sertraline until ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
End stage renal disease
Pneumonia
Heart failure with reduced ejection fraction
Anemia
Leukocytosis
Type 1 Diabetes
Dysphagia
Hypoxia
Atrial fibrillation
Deep vein thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
Dear Mr. ___,
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital from rehab because you had gained 25 
pounds of fluid and developed swelling in your legs. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- When you came to the hospital you were found to have symptoms 
and signs on an infection in your lung, likely related to 
swallowing food into your lungs. You underwent dialysis in the 
hospital to remove fluid from your body. You also received 
antibiotics to treat the infection in your lung. We removed your 
feeding tube because you preferred to eat food, even with the 
increased risk of infections in your lungs.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.

We wish you the best!
 
Followup Instructions:
___